US05032313
Using 1-[4-(4-butylphenyl)cyclohexen-1-yl]-3,4,5-trifluorobenzene obtained by reacting 4-(4-butylphenyl)-cyclohexanone with 1-bromo-3,4,5-trifluorobenzene, as a starting raw material, 4"-butyl-3,4,5-trifluoroterphenyl was obtained in the same manner as in Example 3.

reactant | 1-[4-(4-butylphenyl)cyclohexen-1-yl]-3,4,5-trifluorobenzene | C(CCC)C1=CC=C(C=C1)C1CC=C(CC1)C1=CC(=C(C(=C1)F)F)F | C22H23F3
reactant | 4-(4-butylphenyl)-cyclohexanone | C(CCC)C1=CC=C(C=C1)C1CCC(CC1)=O | C16H22O
reactant | 1-bromo-3,4,5-trifluorobenzene | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
product | 4"-butyl-3,4,5-trifluoroterphenyl | C(CCC)C1=CC=C(C=C1)C=1C(=CC=CC1)C1=CC(=C(C(=C1)F)F)F | C22H19F3
